US09326987B2
4-{5-[(2,2-Dimethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-6-(1H-indol-4-yl)-1H-indazole
To a solution of 6-bromo-4-{5-[(2,2-dimethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole (176 mg, 0.298 mmol) in dioxane (2.5 ml) and water (0.25 ml) was added 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole (102 mg, 0.420 mmol, available from Frontier Scientific Europe), 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride (43.5 mg, 0.060 mmol) and potassium phosphate tribasic (198 mg, 0.933 mmol). The mixture was heated under microwave irradiation at 100° C. for 20 mins. The mixture was passed through a 1 g silica SPE cartridge, washing with MeOH. The solvent was removed under a stream of nitrogen and the residue was partitioned between DCM (10 ml) and water (10 ml), separated with a hydrophobic frit and the solvent again removed under a stream of nitrogen. The crude residue was dissolved in DMSO (2 ml) and purified by Mass Directed Automated Preparative HPLC. The product-containing fractions were blown down under a stream of nitrogen to give a yellow solid. The protected compound was dissolved in 1,4-dioxane (1 ml) and sodium hydroxide (1 ml, 2.000 mmol) and stirred at room temperature for 3 h. The mixture was evaporated to dryness under a stream of nitrogen. The residue was partitioned between ethyl acetate (5 ml) and saturated ammonium chloride (2 ml) and separated with a hydrophilic frit. The solvent was removed under a stream of nitrogen to give a brown solid (31 mg) that was dissolved in DMSO (750 μL) and purified by Mass Directed Automated Preparative HPLC. The solvent was removed under a stream of nitrogen. The appropriate fraction was blown down under a stream of nitrogen to give the title compound as a pale yellow gum (2.4 mg).

reactant | 6-bromo-4-{5-[(2,2-dimethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-1-(phenylsulfonyl)-1H-indazole | 0.298 mmol, 176 mg | BrC1=CC(=C2C=NN(C2=C1)S(=O)(=O)C1=CC=CC=C1)C=1OC(=NN1)CN1CC(OCC1)(C)C | C22H22BrN5O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indole | 0.420 mmol, 102 mg | CC1(OB(OC1(C)C)C1=C2C=CNC2=CC=C1)C | C14H18BNO2
reactant | potassium phosphate tribasic | 0.933 mmol, 198 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | sodium hydroxide | 2.000 mmol, 1 ml | [OH-].[Na+]
solvent | dioxane | 2.5 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.25 ml | O | H2O
solvent | 1,4-dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium dichloride | 0.060 mmol, 43.5 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 4-{5-[(2,2-Dimethyl-4-morpholinyl)methyl]-1,3,4-oxadiazol-2-yl}-6-(1H-indol-4-yl)-1H-indazole | 31 mg | CC1(CN(CCO1)CC1=NN=C(O1)C1=C2C=NNC2=CC(=C1)C1=C2C=CNC2=CC=C1)C | C24H24N6O2
